US04329518
A stirred solution of 2-bromomethyl-3-chloro-[1,1'-biphenyl] (18.7 g, 0.067 mole) and hexamethylenetetraamine (9.3 g, 0.067 mole) in 200 ml of chloroform was heated at reflux for 221/2 hours. The reaction mixture was cooled and the solvent evaporated under reduced pressure to give a residue. To the residue was added 250 ml of a 1:1 solution of concentrated acetic acid:water. The mixture was heated at reflux for approximately 22 hours, then cooled. The mixture was saturated with sodium chloride and extracted with four 200 ml portions of methylene chloride. The extracts were combined, washed with saturated aqueous sodium chloride solution, followed by saturated aqueous sodium bicarbonate solution, and dried over anhydrous potassium carbonate. The mixture was filtered and the filtrate evaporated under reduced pressure to give a residue. The residue was subjected to column chromatography on silica gel, elution first with toluene:n-heptane (9:1), followed by toluene:methylene chloride (1:1), and finally methylene chloride to give 3-chloro-[1,1'-biphenyl]-2-carboxaldehyde (3.4 g) as an oil.

reactant | 2-bromomethyl-3-chloro-[1,1'-biphenyl] | 0.067 mole, 18.7 g | BrCC1=C(C=CC=C1Cl)C1=CC=CC=C1 | C13H10BrCl
reactant | hexamethylenetetraamine | 0.067 mole, 9.3 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-chloro-[1,1'-biphenyl]-2-carboxaldehyde | 3.4 g | ClC1=C(C(=CC=C1)C1=CC=CC=C1)C=O | C13H9ClO
